US08076502B2
2 mL of saturated sodium hydrogen carbonate was added to 200 mg of (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 6-ethyl ester suspended in 1 mL of dioxane, and the mixture was stirred for 10 minutes at room temperature. 0.18 mL of allyl chloroformate was added thereto, and the solution was stirred for 8 hours at room temperature. After the reaction solution was acidified with 1 mL of 1N hydrochloric acid, 10 mL of water was added thereto, and the mixture was extracted twice with ethyl acetate. The ethyl acetate layers were combined, dried over anhydrous sodium sulfate and concentrated under reduced pressure, and the obtained residue was dissolved in 20 mL of N,N-dimethylformamide. 141 mg of 1-iodobutane and 106 mg of potassium carbonate were added to the solution, and the mixture was stirred for 16 hours at room temperature. Water was added thereto, and the reaction solution was extracted twice with ethyl acetate. After the ethyl acetate layers were combined and dried over anhydrous sodium sulfate, the solvent was distilled under reduced pressure and purified by column chromatography (silica gel: Kanto Chemical silica gel 60 (spherical), eluent: hexane-ethyl acetate=5:1), thereby yielding 159 mg of (1R,2R,3R,5R,6R)-2-allyloxycarbonylamino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-butyl ester 6-ethyl ester.

reactant | sodium hydrogen carbonate | 2 mL | C(O)([O-])=O.[Na+]
reactant | (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 6-ethyl ester | 200 mg | C(C)OC(=O)[C@]1([C@@H]2C[C@H]([C@]([C@H]12)(C(=O)O)N)OCC1=CC(=C(C=C1)Cl)Cl)F | C17H18Cl2FNO5
reactant | allyl chloroformate | 0.18 mL | ClC(=O)OCC=C | C4H5ClO2
reactant | hydrochloric acid | 1N, 1 mL | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | (1R,2R,3R,5R,6R)-2-allyloxycarbonylamino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-butyl ester 6-ethyl ester | 159 mg | C(C)OC(=O)[C@]1([C@@H]2C[C@H]([C@]([C@H]12)(C(=O)OC(C)CC)NC(=O)OCC=C)OCC1=CC(=C(C=C1)Cl)Cl)F | C25H30Cl2FNO7
